US07576105B2
A solution of N-benzyl-1-propyl-4-piperidinamine (3.47 g, 14.9 mmol), N, N-diethyl-4-bromobenzamide (3.82 g, 14.9 mmol), Pd2 dba3 (0.14 g, 0.149 mmol), (+)-BINAP (0.28 g, 0.448 mmol) and sodium t-butoxide (2.00 g, 20.9 mmol) in 18.5 mL of dry toluene was heated at 120° C. under Argon in a pressure vessel for 46 h. The mixture was cooled, and dichloromethane (75 mL) and water (75 mL) were added to the reaction flask. The layers were separated, and the aqueous layer was extracted twice with dichloromethane (75 mL). The organic layers were combined and washed with brine (75 mL) and dried (Na2SO4). Evaporation of the solvent afforded a dark brown oil with some solid particles evident. This material was purified on a flash silica gel column (5% methanol-chloroform to 10% methanol-chloroform) to provide 3.75 g (62% yield) of N,N-diethyl-4-[benzyl(1-propylpiperidin-4-yl)amino]benzamide as a golden-brown oil. This material was dissolved in acetonitrile, and oxalic acid (0.82 g) was added. Upon addition of diethyl ether, a cream-colored precipitate came out of solution. Recrystallization from acetonitrile and diethyl ether afforded 2.41 g (32% yield) of a cream-colored solid, mp 92-99° C. MS (ES), m/z 408 (MH+). 300 MHz 1H NMR (DMSO-d6) δ0.89 (t, J=7.3 Hz, 3H), 1.08 (t, J=7.0 Hz, 6H), 1.56-1.73 (m, 2H), 1.82-2.10 (m, 4H), 2.94 (brt, J=7.8 Hz, 2H), 3.08 (br t, 2H), 3.31 (dd, J=6.9 Hz, 2H), 3.46 (br d, J=11.5 Hz, 2H), 4.18-4.35 (br m, 1H), 4.49 (br s, 2H), 6.74 (d, J=8.7 Hz, 2H), 7.20-7.35 (m, 7H). Elemental analysis: Calculated for C26H37N3O.C2H2O4.0.6H2O: C, 66.14; H, 7.97; N, 8.26. Found C, 65.90; H, 7.78; N, 8.01.

reactant | N-benzyl-1-propyl-4-piperidinamine | 14.9 mmol, 3.47 g | C(C1=CC=CC=C1)NC1CCN(CC1)CCC | C15H24N2
reactant | N, N-diethyl-4-bromobenzamide | 14.9 mmol, 3.82 g | C(C)N(C(C1=CC=C(C=C1)Br)=O)CC | C11H14BrNO
reactant | sodium t-butoxide | 20.9 mmol, 2.00 g | CC(C)([O-])C.[Na+]
reactant | dichloromethane | 75 mL | ClCCl | CH2Cl2
solvent | toluene | 18.5 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Pd2 dba3 | 0.149 mmol, 0.14 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
catalyst | (+)-BINAP | 0.448 mmol, 0.28 g | C1=CC=C(C=C1)P(C2=CC=CC=C2)C3=C(C4=CC=CC=C4C=C3)C5=C(C=CC6=CC=CC=C65)P(C7=CC=CC=C7)C8=CC=CC=C8 | C44H32P2
solvent | water | 75 mL | O | H2O
product | N,N-diethyl-4-[benzyl(1-propylpiperidin-4-yl)amino]benzamide | 3.75 g, 62% yield | C(C)N(C(C1=CC=C(C=C1)N(C1CCN(CC1)CCC)CC1=CC=CC=C1)=O)CC | C26H37N3O
